US08497265B2
To a N2 purged round bottom flask was added benzyl 3-(3-(3,6-dihydro-2H-pyran-4-yl)pyrazin-2-yloxy)azetidine-1-carboxylate (see PREPARATION P28.2; 490 mg, 1.334 mmol), pearlman's catalyst (37.5 mg, 0.267 mmol) and EtOH (10 mL). A balloon of H2 was placed atop the round bottom flask. After 20 hours, the reaction was filtered through CELITE® and the cake was washed with EtOAc. The filtrate was concentrated in vacuo to give 2-(azetidin-3-yloxy)-3-(tetrahydro-2H-pyran-4-yl)pyrazine (240 mg, 1.020 mmol, 76% yield), as a tan residue. MS (ESI) m/z 236.1 (MH+).

reactant | benzyl 3-(3-(3,6-dihydro-2H-pyran-4-yl)pyrazin-2-yloxy)azetidine-1-carboxylate | 1.334 mmol, 490 mg | O1CCC(=CC1)C=1C(=NC=CN1)OC1CN(C1)C(=O)OCC1=CC=CC=C1 | C20H21N3O4
catalyst | pearlman's catalyst | 0.267 mmol, 37.5 mg | [OH-].[OH-].[Pd+2]
solvent | EtOH | 10 mL | CCO | C2H6O
product | 2-(azetidin-3-yloxy)-3-(tetrahydro-2H-pyran-4-yl)pyrazine | 1.020 mmol, 240 mg, 76% yield | N1CC(C1)OC1=NC=CN=C1C1CCOCC1 | C12H17N3O2
